US07179823B1
A mixture of ethyl 3-(2-thienyl)-1H-pyrazole-4-caboxylate (10.23 g), 4-(4-chloromethylphenoxy)methyl-5-methyl-2-phenyloxazole (14.66 g), potassium carbonate (13.09 g), and N,N-dimethylformamide (100 ml) was stirred at 80° C. for 8 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate as colorless crystals (19.88 g, yield: 87%) from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 113˜114° C.

reactant | ethyl 3-(2-thienyl)-1H-pyrazole-4-caboxylate | 10.23 g | S1C(=CC=C1)C1=NNC=C1C(=O)OCC | C10H10N2O2S
reactant | 4-(4-chloromethylphenoxy)methyl-5-methyl-2-phenyloxazole | 14.66 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | potassium carbonate | 13.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate | 19.88 g, yield: 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C=2SC=CC2)C=C1 | C28H25N3O4S
